US08222248B2
To a solution of 4-hydroxy-2,6-dimethylbenzaldehyde (1.3 g, 8.6 mmol) and bromoacetic acid methyl ester (0.98 ml, 10.3 mmol) in DMF (20 mL) was added K2CO3 (1.8 g, 12.9 mmol). The suspension was stirred at ambient temperature overnight then the reaction mixture was partioned between water and EtOAc. The aqueous layer was extracted with EtOAc and the organic layer was dried with MgSO4, filtered and concentrated. Purification by flash chromatography using heptane/EtOAc (5:1) as eluent gave (4-formyl-3,5-dimethylphenoxy)-acetic acid methyl ester as a yellow solid.

reactant | 4-hydroxy-2,6-dimethylbenzaldehyde | 8.6 mmol, 1.3 g | OC1=CC(=C(C=O)C(=C1)C)C | C9H10O2
reactant | bromoacetic acid methyl ester | 10.3 mmol, 0.98 ml | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 12.9 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-formyl-3,5-dimethylphenoxy)-acetic acid methyl ester | COC(COC1=CC(=C(C(=C1)C)C=O)C)=O | C12H14O4
